US07169944B2
The reaction and post treatment were carried out in the same manner as in Example 10 except that 1-phenyl-3-hydroxy-3-cyclohexylpropan-1-one obtained by the same production process as in Preparation Example 1, was used as the starting material, and hydrochloric acid (180 g) was changed to hydrogen chloride gas (20° C., 12,300 ml, 511 mmol), and the reaction was carried out at −20° C., whereby the desired 1-phenyl-3-chloro-3-cyclohexylpropan-1-one (97.1 g, 407 mmol) was obtained in a yield of 96%.

reactant | 1-phenyl-3-hydroxy-3-cyclohexylpropan-1-one | C1(=CC=CC=C1)C(CC(C1CCCCC1)O)=O | C15H20O2
reactant | hydrochloric acid | 180 g | Cl | ClH
reactant | hydrogen chloride | 511 mmol, 12,300 ml | Cl | ClH
product | 1-phenyl-3-chloro-3-cyclohexylpropan-1-one | 407 mmol, 97.1 g, yield of 96% | C1(=CC=CC=C1)C(CC(C1CCCCC1)Cl)=O | C15H19ClO
